US07141596B2
Step 11. Methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoylamino)butoxy]-6-hydroxybenzoate
To a solution of (2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid (85 mg, 0.19 mmol) in N,N-dimethylformamide (2.0 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (88.4 mg, 0.200 mmol) at 0° C. under an atmosphere of nitrogen. After stirring for 15 min, methyl 2-(4-aminobutoxy)-6-hydroxybenzoate (54.7 mg, 0.228 mmol) and N,N-diisopropylethylamine (99.5 μL, 0.571 mmol) was added. The reaction mixture was warmed to room temperature for 1 h. The reaction was diluted with ethyl acetate and quenched with saturated sodium bicarbonate solution. The aqueous phase was extracted with EtOAc once. The combined organic solutions were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by preparative LCMS to yield the desired product (73 mg, 57%). 1H NMR (400 MHz, CD3OD): δ 8.00 (m, 1H), 7.38–7.15 (m, 9H), 6.48 (m, 2H), 5.45 (m, 1H), 5.03 (m, 2H), 4.30 (m, 1H), 3.94 (m, 2H), 3.85 (s, 3H), 3.3 (m, 4H), 3.02 (m, 1H), 2.87 (m, 1H), 2.42 (s, 3H), 1.6 (m, 4H); MF=C33H37N3O10S; LCMS found for C33H38N3O10S (M+H)+: m/z=668.

reactant | (2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid | 0.19 mmol, 85 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C | C21H22N2O7S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.200 mmol, 88.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | methyl 2-(4-aminobutoxy)-6-hydroxybenzoate | 0.228 mmol, 54.7 mg | NCCCCOC1=C(C(=O)OC)C(=CC=C1)O | C12H17NO4
reactant | N,N-diisopropylethylamine | 0.571 mmol, 99.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoylamino)butoxy]-6-hydroxybenzoate | 73 mg, 57% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C | C33H37N3O10S
